Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
___ Colonoscopy
___ Diagnostic laparoscopy, lysis of adhesions

 
History of Present Illness:
Ms. ___ is a ___ female with the past medical
history noted below who presented with abdominal pain. Her story
began in ___ when she was admitted to ___ with
hematochezia. On upper endoscopy, she was found to have
non-bleeding duodenal ulcers, and these were attributed to 
recent
naproxen use. CT abdomen/pelvis at the time also showed
osteosclerotic findings concerning for metastatic disease. She
was encouraged to follow up with her PCP, but never did. The 
___ prior to admission she developed severe chest pain 
that migrated to 
mid-abdominal region. It was so bad, she couldn't eat. She
presented to ___ again where repeat abdominal imaging 
again
showed osteosclerotic changes and this time a large annular soft
tissue mass in the mid to distal transverse colon. She reported
barriers to accessing care, including difficulty with
transportation. Therefore she was transferred to ___ for 
expedited
oncologic workup and pain control. She reports very watery
diarrhea with occasional blood. 
 
Past Medical History:
PMH:
HTN
DM2
PUD
Lumbar spine stenosis
Sciatica
Osteoarthritis
Left cataract
Left ear tinnitus

PSH: 
Hysterectomy (for fibroids)
 
Social History:
___
Family History:
Older sister with breast cancer and father with multiple 
strokes, DM. 
 
Physical Exam:
Admission Physical Exam:

VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement 
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, generally tender, but 
particularly in epigastric region.  Bowel sounds present.
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full 
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI, speech fluent, moves all limbs, sensation to light touch 
grossly intact throughout
PSYCH: pleasant, appropriate affect

=======================

Discharge Physical Exam:

VS: 98.5, 119/66, 64, 18, 95%/RA 
Gen - well appearing, no acute distress
HEENT - NCAT, EOMI, anicteric
Resp - breathing comfortably without signs of respiratory 
distress
Card - HDS
Abdomen - soft, moderately distended, mildly tender throughout. 
No rebound or guarding. Incisions covered with steri strips 
c/d/I. Umbilical dressing mildly saturated with serosang 
drainage. 
Ext - WWP
 
Pertinent Results:
CT CHEST W/CONTRAST Study Date of ___ 5:08 ___ 
IMPRESSION:  
  
No evidence of malignancy in the soft tissues of the chest. 
Severe generalized osteosclerosis, diagnosis uncertain.  
Concurrent metastases are not excluded. 
Subsegmental atelectasis left lower lobe probably unrelated to 
malignancy 
suggesting instead bronchial inflammation, retained secretions 
or in chronic bronchial stricture or relaxation atelectasis. 

Colonoscopy
Impression:
- High residue material was noted throughout. Multple attempts 
were made to irrigate the colon but the mucosa could not be 
visualized adequately. Irregular, dusky, necrotic-appearing 
mucosa with surrounding erythema suggestive of ischemic colitis 
in the transverse colon (up to 50cm)

 CTA ABD & PELVIS Study Date of ___ 12:13 AM 
IMPRESSION: 
  
1. Circumferential wall thickening of the distal transverse 
colon near the 
splenic flexure with minimal surrounding inflammatory changes.  
Findings could represent colitis.  Given the location watershed 
ischemic colitis is a diagnostic possibility, although the 
mesenteric arteries appear patent with mild atherosclerotic 
calcifications.  Although interval increased distension of this 
segment compare to CT from ___ argues for more 
benign etiology, underlying malignancy cannot be excluded.  
Endoscopic evaluation is recommended. 
2. No additional acute process within the abdomen and pelvis. 
3. Diffuse sclerosis of the bones is of unclear etiology.  
Differential 
includes diffuse metastatic disease, hematologic malignancy, or 
metabolic 
disorders. 

Transthoracic echocardiogram ___
Mild symmetric left ventricular hypertrophy with normal cavity 
size and regional/global biventricular systolic function.

___ 05:00AM BLOOD WBC-9.1 RBC-3.17* Hgb-8.6* Hct-27.7* 
MCV-87 MCH-27.1 MCHC-31.0* RDW-17.3* RDWSD-56.1* Plt ___
___ 05:35AM BLOOD WBC-8.6 RBC-3.28* Hgb-9.0* Hct-28.4* 
MCV-87 MCH-27.4 MCHC-31.7* RDW-16.8* RDWSD-53.1* Plt ___
___ 07:10AM BLOOD WBC-8.4 RBC-3.48* Hgb-9.4* Hct-29.8* 
MCV-86 MCH-27.0 MCHC-31.5* RDW-16.7* RDWSD-52.1* Plt ___
___ 06:50AM BLOOD WBC-8.1 RBC-3.51* Hgb-9.5* Hct-29.9* 
MCV-85 MCH-27.1 MCHC-31.8* RDW-16.8* RDWSD-51.9* Plt ___
___ 06:50AM BLOOD WBC-8.1 RBC-3.51* Hgb-9.5* Hct-29.9* 
MCV-85 MCH-27.1 MCHC-31.8* RDW-16.8* RDWSD-51.9* Plt ___
___ 05:35AM BLOOD Neuts-63.4 ___ Monos-8.7 Eos-1.9 
Baso-0.2 Im ___ AbsNeut-5.44 AbsLymp-1.79 AbsMono-0.75 
AbsEos-0.16 AbsBaso-0.02
___ 06:35AM BLOOD Neuts-89.6* Lymphs-7.1* Monos-1.9* 
Eos-0.1* Baso-0.2 Im ___ AbsNeut-15.19* AbsLymp-1.21 
AbsMono-0.33 AbsEos-0.02* AbsBaso-0.03
___ 05:50AM BLOOD Neuts-84.0* Lymphs-8.2* Monos-6.2 
Eos-0.1* Baso-0.2 Im ___ AbsNeut-13.33* AbsLymp-1.31 
AbsMono-0.99* AbsEos-0.02* AbsBaso-0.03
___ 06:45AM BLOOD Neuts-81.6* Lymphs-9.9* Monos-7.2 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-12.17* AbsLymp-1.48 
AbsMono-1.07* AbsEos-0.00* AbsBaso-0.03
___ 05:00AM BLOOD Glucose-171* UreaN-10 Creat-1.2* Na-143 
K-4.2 Cl-110* HCO3-20* AnGap-13
___ 05:35AM BLOOD Glucose-160* UreaN-8 Creat-1.3* Na-142 
K-3.5 Cl-108 HCO3-20* AnGap-14
___ 12:30PM BLOOD K-3.9
___ 07:10AM BLOOD Glucose-175* UreaN-12 Creat-1.3* Na-143 
K-3.7 Cl-108 HCO3-21* AnGap-14
___ 06:35AM BLOOD ALT-7 AST-7 AlkPhos-115* TotBili-0.2
___ 06:45AM BLOOD ALT-9 AST-7 AlkPhos-129* TotBili-0.2
___ 05:00AM BLOOD Calcium-8.2* Phos-3.7 Mg-1.8
___ 05:35AM BLOOD Calcium-8.0* Phos-4.4 Mg-1.9
___ 12:30PM BLOOD Mg-2.0
___ 06:50AM BLOOD Calcium-8.7 Phos-5.2* Mg-2.1
___ 10:57AM BLOOD Lactate-0.8
 
Brief Hospital Course:
Ms. ___ is a ___ year old female with past medical history 
notable for hypertension, type two diabetes and prior GI bleed 
from NSAID induced peptic ulcer disease in ___. She 
presented to ___ with abdominal pain. At that time, she 
had a CT abd/pelvis showing possible metastatic osteosclerotic 
lesions diffusely in her bones as well as large 7.5cm colonic 
mass concerning for malignancy. On EKG, the patient was also 
found to be in atrial fibrillation without any known history of 
arrhythmia.

At this point, she was transferred to ___ for expedited 
malignancy work-up on ___. She was initially on the ___ service, where GI was consulted for 
colonoscopy. During colonoscopy, she was found to have no 
malignancy, but rather necrotic appearing colonic tissue 
concerning for ischemic colitis. The colorectal surgery was 
consulted and the patient underwent diagnostic laparoscopy with 
lysis of adhesions on ___. During this procedure, she was 
found to have ischemic appearing tissue without evidence of 
non-viability. No resection was performed and she was 
transferred to the surgical service for post-operative 
monitoring. Of note, she did have mild atherosclerotic disease 
found in her mesenteric arteries and etiology of her ischemic 
colitis was felt most likely to be ischemia from acute on 
chronic hypoperfusion, with some concern for embolic phenomenon 
(lower suspicion) due to paroxysmal atrial fibrillation.

The cardiology team was consulted and the patient underwent a 
transthoracic echocardiogram. The echocardiogram was unrevealing 
and demonstrated a structurally normal heart with ejection 
fraction of 55-60%. As the patient remained in sinus rhythm 
during her hospitalization at ___ and lack of symptoms, the 
cardiology team recommended arranging ___ of hearts holter 
monitor as an outpatient and to discuss anticoagulation with her 
primary care physician. The holter monitor lab was contacted at 
___ who reported they had no ___ of hearts monitor at that 
time. The patient was carefully instructed to follow up with her 
primary care provider once discharged to arrange future cardiac 
monitoring and anticoagulation (patient declined colorectal 
surgery team arranging an appointment with her PCP). 

On ___, the patient was discharged home. At discharge, she 
was tolerating a regular diet, passing flatus, voiding, and 
ambulating independently. The patient takes Tramadol at home for 
spinal stenosis, however, due to the pain she has from recent 
surgery she will be going home with a few pills of 5mg 
oxycodone. The patient was instructed not to take tramadol and 
oxycodone together as she will be at a high risk of opioid 
overdose. The patient expressed understanding and agreed not to 
take both medications together. She will follow-up in the clinic 
in ___ weeks. This information was communicated to the patient 
directly prior to discharge.

Post-Surgical Complications During Inpatient Admission:
 [ ] Post-Operative Ileus resolving w/o NGT
 [ ] Post-Operative Ileus requiring management with NGT
 [ ] UTI
 [ ] Wound Infection
 [ ] Anastomotic Leak
 [ ] Staple Line Bleed
 [ ] Congestive Heart failure
 [ ] ARF
 [ ] Acute Urinary retention, failure to void after Foley D/C'd
 [ ] Acute Urinary Retention requiring discharge with Foley 
Catheter
 [ ] DVT
 [ ] Pneumonia
 [ ] Abscess
 [x] None

Social Issues Causing a Delay in Discharge:
 [ ] Delay in organization of ___ services
 [ ] Difficulty finding appropriate rehab hospital disposition.
 [ ] Lack of insurance coverage for ___ services
 [ ] Lack of insurance coverage for prescribed medications.
 [ ] Family not agreeable to discharge plan.
 [ ] Patient knowledge deficit related to ileostomy delaying 
dispo
 [x] No social factors contributing in delay of discharge.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. NIFEdipine (Extended Release) 90 mg PO DAILY 
2. Atenolol 100 mg PO DAILY 
3. NovoLOG Flexpen U-100 Insulin (insulin aspart U-100) 100 
unit/mL subcutaneous TID 
4. Omeprazole 20 mg PO BID 
5. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO TID  
2.  OxyCODONE (Immediate Release) 7.5 mg PO Q6H:PRN Pain - 
Moderate 
Do NOT take with tramadol  
RX *oxycodone 5 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*8 Tablet Refills:*0 
3.  Atenolol 100 mg PO DAILY  
4.  NIFEdipine (Extended Release) 90 mg PO DAILY  
5.  NovoLOG Flexpen U-100 Insulin (insulin aspart U-100) 100 
unit/mL subcutaneous TID  
6.  Omeprazole 20 mg PO BID  
7.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Ischemic colitis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the ___ 
from ___ with abdominal pain and a CT scan that was 
concerning for a mass. You underwent a colonoscopy where no mass 
was identified but you did have "ischemic colitis" (poor blood 
flow to your colon). You were brought to the operating room for 
a diagnostic laparoscopy where no ischemic bowl was found. When 
you were first admitted, your initial EKG showed atrial 
fibrillation (cardiac arrhythmia). Because this could be a risk 
factor for ischemic colitis, you had an echocardiogram that was 
normal. We attempted to arrange for a cardiac monitor for you 
for when you leave the hospital, however, the cardiology lab did 
not have monitors at this time. Please follow up with your 
primary care provider and make arrangements to have ___ of 
hearts (heart monitor) with a cardiologist.

You have recovered from this hospitalization well, your pain is 
well controlled with oral pain medications and you are 
tolerating a regular diet. You are now ready to be discharged 
home to continued your recovery. 

Please monitor your bowel function closely. You may or may not 
have had a bowel movement prior to discharge which is 
acceptable; however it is important that you have a bowel 
movement in the next ___ days. After anesthesia it is not 
uncommon for patients to have some decrease in bowel function 
but you should not have prolonged constipation. Some loose stool 
and passing of small amounts of dark, old appearing blood are 
expected. However, if you notice that you are passing bright red 
blood with bowel movements or having large amounts of loose 
stool without improvement please call the office or go to the 
emergency room. While taking narcotic pain medications you are 
at risk for constipation, please take an over the counter stool 
softener such as Colace.

If you have any of the following symptoms please call the office 
at ___:
 fever greater than 101.5
 increasing abdominal distension
 increasing abdominal pain
 nausea/vomiting
 inability to tolerate food or liquids
 prolonged loose stool
 extended constipation
 inability to urinate

Incisions:
You have ___ laparoscopic surgical incisions on your abdomen 
which are closed with internal sutures.  It is important that 
you monitor these areas for signs and symptoms of infection 
including: increasing redness of the incision lines, 
white/green/yellow/malodorous drainage, increased pain at the 
incision, increased warmth of the skin at the incision, or 
swelling of the area.

You may shower; pat the incisions dry with a towel, do not rub.  
If you have steri-strips (the small white strips), they will 
fall off over time, please do not remove them. Please do not 
take a bath or swim until cleared by the surgical team.

Pain
It is expected that you will have pain after surgery, this will 
gradually improve over the first week or so you are home.  You 
should continue to take 2 Extra Strength Tylenol (___) for 
pain every 8 hours around the clock. Please do not take more 
than 3000mg of Tylenol in 24 hours or any other medications that 
contain Tylenol such as cold medication. Do not drink alcohol 
while taking Tylenol.  You may also take Advil (Ibuprofen) 600mg 
every 8 hours for 7 days, please take Advil with food. If these 
medications are not controlling your pain to a point where you 
can ambulate and perform minor tasks, you should take a dose of 
the narcotic pain medication oxycodone.  Please do not take 
sedating medications or drink alcohol while taking the narcotic 
pain medication. Do not drive while taking narcotic medications. 
Do NOT take tramadol and oxycodone together.

Activity
You may feel weak or "washed out" for up to 6 weeks after 
surgery. Do not lift greater than a gallon of milk for 3 weeks. 
At your post op appointment, your surgical team will clear you 
for heavier exercise.  In the meantime, you may climb stairs, 
and go outside and walk.  Please avoid traveling long distances 
until you speak with your surgical team at your post-op visit.  

Thank you for allowing us to participate in your care, we wish 
you all the best! 

 
Followup Instructions:
___